US07030160B2
a) (2S)-2-tert-butoxycarbonylamino-7-piperidinocarbonylmethoxy-tetralin
8.1 g (0.025 mole) of (2S)-2-tert-butoxycarbonylamino-7-hydroxycarbonylmethoxy-tetralin, 2.5 ml (0.025 mole) of piperidine, 11 g (0.025 mole) of benzotriazol-1-yloxy-tris(dimethylamino)phosphonium hexafluorophosphate (BOP) and 5.3 ml of triethylamine in 250 ml of dimethylformamide were mixed at ambient temperature for 6 hours. The solvent was evaporated off, the residue was taken up in water, it was extracted with ethyl acetate, the organic phase was washed with a saturated NaHCO3 solution, filtered over celite and washed with a dilute solution of acetic acid and with water. It was dried and the solvent was evaporated off under reduced pressure. The product was purified by crystallization from a 1:1 ethyl/hexane mixture. The product of the heading was obtained.

reactant | (2S)-2-tert-butoxycarbonylamino-7-hydroxycarbonylmethoxy-tetralin | 0.025 mole, 8.1 g | C(C)(C)(C)OC(=O)N[C@@H]1CC2=CC(=CC=C2CC1)OCC(=O)O | C17H23NO5
reactant | piperidine | 0.025 mole, 2.5 ml | N1CCCCC1 | C5H11N
reactant | benzotriazol-1-yloxy-tris(dimethylamino)phosphonium hexafluorophosphate | 0.025 mole, 11 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | triethylamine | 5.3 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
product | (2S)-2-tert-butoxycarbonylamino-7-piperidinocarbonylmethoxy-tetralin | C(C)(C)(C)OC(=O)N[C@@H]1CC2=CC(=CC=C2CC1)OCC(=O)N1CCCCC1 | C22H32N2O4
